US06958341B2
Part A. A solution of triphenylphosphine (25.0 g, 95.3 mmol) in THF (200 mL) was cooled to −30° C., and diethyl azodicarboxylate (15.0 mL, 95.2 mmol) was slowly added dropwise in conc. THF solution. After the addition was complete, the mixture was treated with a THF solution of 3-pentanol (10.0 mL, 90.6 mmol) and ethyl cyanoacetate (10.0 mL, 92.1 mmol). The resulting mixture was allowed to stir and warm to ambient temperature for 12 hours, then was evaporated. The residual oil was separated by column chromatography (10:90 ethyl acetate-hexane) to afford the product, ethyl 2-cyano-3-ethylpentanoate, as a viscous oil (3.41 g, 18.6 mmol, 21%). TLC RF 0.43 (20:80 ethyl acetate-hexane). Spectral data: 1H NMR (300 MHz, CDCl3): δ 4.27 (2H, q, J=7.0 Hz), 3.61 (1H, d, J=4.4 Hz), 2.04-1.93 (1H, m), 1.70-1.35 (4H, m), 1.33 (3H, t, J=7.0 Hz), 0.97 (3H, t, J=7.3 Hz), 0.94 (3H, t, J=7.3 Hz). MS (H2O-GC/MS): m/e 185 (8), 184 (100).

reactant | triphenylphosphine | 95.3 mmol, 25.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 95.2 mmol, 15.0 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-pentanol | 90.6 mmol, 10.0 mL | CCC(CC)O | C5H12O
reactant | ethyl cyanoacetate | 92.1 mmol, 10.0 mL | C(#N)CC(=O)OCC | C5H7NO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | ethyl 2-cyano-3-ethylpentanoate | C(#N)C(C(=O)OCC)C(CC)CC | C10H17NO2
